US06982278B2
2-Methyl-2-{2-methyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}propionic acid ethyl ester
A mixture of 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (4.50 g, 18.9 mmol), toluene-4-sulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)ethyl ester (Japan Tobacco Inc WO 9518125) (8.43 g, 23.6 mmol), and Cs2CO3 (7.68 g, 23.6 mmol) was heated at 55° C. in DMF (45 mL) for 20 h. Additional toluene-4-sulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)ethyl ester (2.81 g, 7.86 mmol) and Cs2CO3 (2.56 g, 7.86 mmol) were added, and the mixture was heated at 55° C. in DMF (45 mL) for 6 h. The reaction mixture cooled and partitioned between EtOAc (200 mL) and H2O (100 mL). The organic layer was washed with brine (50 mL). The aqueous layers were extracted further with EtOAc (200 mL). The combined organic layers were dried (Na2SO4) and concentrated. The crude product was purified by flash chromatography using hexanes:ethyl acetate (6:1 to 4:1) to give an oil (5.81 g, 73%): 1H NMR (400 MHz, CDCl3) δ 1.27 (t, 3H, J=7.1 Hz), 1.51 (s, 6H), 2.18 (s, 3H), 2.36 (s, 3H), 2.95 (t, 2H, J=6.6 Hz), 4.17 (t, 2H, J=6.6 Hz), 4.24 (q, 2H, J=7.1 Hz), 6.57 (dd, 1H, J=2.9, 8.8 Hz), 6.65 (d, 1H, J=9.3 Hz), 6.69 (d, 1H, J=2.9 Hz), 7.38-7.45 (m, 3H), 7.98-8.00 (m, 2H); MS (ES) m/e 424.2 [M+1].

reactant | 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | 18.9 mmol, 4.50 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)O)C)=O | C13H18O4
reactant | toluene-4-sulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)ethyl ester | 23.6 mmol, 8.43 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C19H19NO4S
reactant | Cs2CO3 | 23.6 mmol, 7.68 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | toluene-4-sulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)ethyl ester | 7.86 mmol, 2.81 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C19H19NO4S
reactant | Cs2CO3 | 7.86 mmol, 2.56 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 45 mL | CN(C)C=O | C3H7NO
solvent | DMF | 45 mL | CN(C)C=O | C3H7NO
product | 2-Methyl-2-{2-methyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}propionic acid ethyl ester | 5.81 g, 73% | C(C)OC(C(C)(OC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)C)C)=O | C25H29NO5
